US05753679
0.63 g (0.003 mol) of 1-(4-fluoro-benzyl)-piperidin-4-ol and 2.09 ml (0.015 mol) of triethylamine were dissolved in 30 ml of toluene, treated with 1.04 ml (0.009 mol) of benzoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:3). 0.415 g (44%) of 1-(4-fluoro-benzyl)-piperidin-4-yl benzoate was obtained as a yellow oil. MS: me/e=314 (C19H21FNO2+).

reactant | 1-(4-fluoro-benzyl)-piperidin-4-ol | 0.003 mol, 0.63 g | FC1=CC=C(CN2CCC(CC2)O)C=C1 | C12H16FNO
reactant | triethylamine | 0.015 mol, 2.09 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.009 mol, 1.04 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-fluoro-benzyl)-piperidin-4-yl benzoate | 0.415 g, 44% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC=C(C=C1)F | C19H20FNO2
